US08703768B2
Step 3: 4-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-2H-pyrazole-3-carboxylic acid
To a suspension of 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (1.13 g, 2.77 mmol) in ethanol (15 ml) and water (12 ml) was added 1N NaOH (3.32 ml) at r.t. under argon atmosphere. The yellow suspension was stirred at 85° C. for 1 h. After cooling down to r.t., the mixture was treated with 1M HCl (3.3 ml) and stirred for 30 min. The product was collected by filtration, washed with water and EtOH, and dried to yield a light yellow solid (1.0 g, 95%).

reactant | 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | 2.77 mmol, 1.13 g | C(C)OC(=O)C=1N(N=CC1NC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)C1CC1)C | C19H20N8O3
reactant | NaOH | 1N, 3.32 ml | [OH-].[Na+]
reactant | HCl | 1M, 3.3 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 12 ml | O | H2O
product | 4-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-2H-pyrazole-3-carboxylic acid | 1.0 g, 95% | C1(CC1)C1=CN=C(C(=N1)C(=O)NC1=C(N(N=C1)C)C(=O)O)NC=1C=NC=NC1 | C17H16N8O3
